US06251917B1
a) 4-(2-Naphthylsulfonamido)methylbenzoic acid
3.8 g (25 mmol) of 4-(aminomethyl)benzoic acid were reacted with 2-naphthalenesulfonyl chloride by the method of procedure 4b, affording 6.1 g (72%) of the product.

reactant | 4-(aminomethyl)benzoic acid | 25 mmol, 3.8 g | NCC1=CC=C(C(=O)O)C=C1 | C8H9NO2
reactant | 2-naphthalenesulfonyl chloride | C1=C(C=CC2=CC=CC=C12)S(=O)(=O)Cl | C10H7ClO2S
product | 4-(2-Naphthylsulfonamido)methylbenzoic acid | 6.1 g, 72% | C1=C(C=CC2=CC=CC=C12)S(=O)(=O)NCC1=CC=C(C(=O)O)C=C1 | C18H15NO4S
